US05385919
A suspension of methyl 1H-indole-2-carboxylate (5.04 g), 2-bromopyridine (3.3 ml), potassium carbonate (7.9 g) and copper (II) oxide (3.9 g) in dry pyridine (80 ml) was heated under reflux for 48 hours. The solvent was removed in vacuo and dichloromethane added to the residue. After filtration the solvent was removed once again in vacuo and the resultant brown oil purified by column chromatography on silica eluting with diethyl ether in petroleum ether (bp 40°-60° C.). Methyl 1-(2-pyridyl)-1H-indole-2-carboxylate was obtained as a white solid: yield 4.74 g (65%). NMR (CDCl3) 3.7 (3H,s,CH3), 7.46 (8H,m,Ar--H), 8.60 (1H,m,Ar--H).

reactant | methyl 1H-indole-2-carboxylate | 5.04 g | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | 2-bromopyridine | 3.3 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 7.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) oxide | 3.9 g | [Cu]=O
product | Methyl 1-(2-pyridyl)-1H-indole-2-carboxylate | yield 30% | N1=C(C=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)OC | C15H12N2O2
